### PR TITLE
feat(jnlindsay): restricted Lorentz group is a normal subgroup

### PR DESCRIPTION
**Pull request by jnlindsay**

### CODE REVIEW

File: PhysLean/Relativity/Lorentz/Group/Orthochronous.lean [hunk 1]
```diff
@@ -190,6 +190,21 @@ def orthchroRep : LorentzGroup d →* ℤ₂ where
...
+  case pos =>
+    have hΛ_1 : orthchroRep Λ = 1 := by exact orthchroMap_IsOrthochronous h_orth
+    rw [h_inv, hΛ_1]
+    group
+  case neg =>
+    have hΛ_neg_1 : orthchroRep Λ = Additive.toMul (1 : ZMod 2) := by
+      exact orthchroMap_not_IsOrthochronous h_orth
+    rw [h_inv, hΛ_neg_1]
+    group
+    sorry
```
Comment (jnlindsay) [inline PhysLean/Relativity/Lorentz/Group/Orthochronous.lean]: I can't figure out how to deal with the inverse of `Additive.toMul (1 : ZMod 2)` here. The tactic `group` doesn't work;  neither have a few other things that I've tried...

(Please ignore the other files at the moment; they're still under construction :)

**Comment by jnlindsay** [comment]
I hope the naming is okay ... still getting used to Mathlib / PhysLean naming conventions :)

Also, I am wondering if any of the new lemmas I added in `Orthochronous.lean` are redundant or trivial 🤔

File: PhysLean/Relativity/Lorentz/Group/Orthochronous.lean [hunk 2]
```diff
@@ -190,6 +190,35 @@ def orthchroRep : LorentzGroup d →* ℤ₂ where
         orthchroMap_IsOrthochronous (mul_othchron_of_not_othchron_not_othchron h h')]
       rfl
 
+/-- The orthochronous Lorentz transformations form the kernel of the homomorphism from
+  `LorentzGroup` to `ℤ₂`. -/
+lemma isOrthchro_iff_in_orthchroRep_ker : IsOrthochronous Λ ↔ Λ ∈ orthchroRep.ker := by
```
Comment (jstoobysmith) [inline PhysLean/Relativity/Lorentz/Group/Orthochronous.lean]: I wouldn't abbreviate isOrthochronous here, i.e. `isOrthochronous_iff_in_orthchroRep_ker`. 

Alternatively one could do `IsOrthochronous.iff_in_orthchroRep_ker` then you get to use the dot-notation for this.

Likewise with the `isOrthchro_iff_inv_isOrthchro`.

**Review by jstoobysmith — APPROVED** [review]
These look great! Just one small comment - but I've approved this PR. The lemmas in the Orthchronous file are good. It's really helpful to have little results like this as they make proving things later easier.

**Review by jstoobysmith — APPROVED** [review]
Thanks for making these changes :).
